US04970207
A mixture of (3RS)-1-(3,4-diacetoxybenzyl)-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one (287 mg), methanol (5 ml), tetrahydrofuran (5 ml), water (1 ml) and 1N aqueous potassium carbonate (5 ml) was stirred for 1.0 hour at 0 - 5° C. and then adjusted to pH 1-2 with 6N hydrochloric acid. Ethyl acetate (50 ml) and water (50 ml) were added to the mixture under stirring. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel with an eluent of a mixture of chloroform and ethyl acetate (4:1) to give (3RS)-1(3,4-dihydroxybenzyl) -3-(2-indolylcarbonylamino)-5-phenyl-2H-1,4-benzodiazepine-2-one (155 mg).

reactant | (3RS)-1-(3,4-diacetoxybenzyl)-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | 287 mg | C(C)(=O)OC=1C=C(CN2C(C(N=C(C3=C2C=CC=C3)C3=CC=CC=C3)NC(=O)C=3NC2=CC=CC=C2C3)=O)C=CC1OC(C)=O | C35H28N4O6
reactant | methanol | 5 ml | CO | CH4O
reactant | potassium carbonate | 1N, 5 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (3RS)-1(3,4-dihydroxybenzyl) -3-(2-indolylcarbonylamino)-5-phenyl-2H-1,4-benzodiazepine-2-one | 155 mg | OC=1C=C(CN2C(C(N=C(C3=C2C=CC=C3)C3=CC=CC=C3)NC(=O)C=3NC2=CC=CC=C2C3)=O)C=CC1O | C31H24N4O4
